US06756382B2
Using the general method of Example 197, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with cyclopentanecarbonyl chloride (0.50 mL, 4.1 mmol) to provide 0.71 g of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclopentanecarboxamide as a white solid, m.p. 168.6-169.8° C.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | cyclopentanecarbonyl chloride | 4.1 mmol, 0.50 mL | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]cyclopentanecarboxamide | 0.71 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2CCCC2)C | C21H27N5O
